US06855840B2
Synthesis of Carbonodithioic Acid, O-ethyl S-(2-pyridinylmethyl) Ester
1.00 g (3.9 mmol) of 2-(bromomethyl)pyridine hydrobromide and 0.36 g (3.9 mmol) of O-ethyldithiocarbonic acid, potassium salt were combined in a 50 ml round bottom flask with 20 ml of 100% ethanol. The reaction vessel was sealed with a rubber septum and oxygen was removed by several freeze-pump-thaw cycles. The reaction mixture was then warmed to room temperature and allowed to stir under positive nitrogen pressure. A white precipitate was observed after the first few minutes of the reaction. The reaction was allowed to stir for an additional 20 hours. 20 mL of 0.5M aqueous sodium hydroxide was then added causing the reaction mixture to become homogenous and take on a red color. Extraction with hexane after addition of an additional 20 ml of the sodium hydroxide solution yielded a fluorescent yellow-green solution. Hexane was removed and the residue was passed over a silica column (ethyl acetate as the elluent). The final product appears as a yellow-green liquid and fluoresces blue when exposed to long wavelength ultra-violet light. Yield=0.342 g (39%). 1H NMR (CDCl3) δ=1.212 (t, 3 H), δ=4.353 (s, 2 H), δ=4.47 (q, 2 H), δ=7.002 (t, 1 H), δ=7.234 (d, 1 H), δ=7.466 (t, 1 H), δ=8.377 (d, 1 H). 13C NMR (CDCl3) δ=13.929, δ=42.135, δ=70.358, δ=122.494 (CH), δ=123.424 (CH), δ=136.777 (CH), δ=149.660 (CH), δ=156.152 (C), δ=213.730 (C═S).

reactant | 2-(bromomethyl)pyridine hydrobromide | 3.9 mmol, 1.00 g | Br.BrCC1=NC=CC=C1
reactant | O-ethyldithiocarbonic acid | 3.9 mmol, 0.36 g | C(C)OC(S)=S | C3H6OS2
reactant | potassium | [K] | K
reactant | oxygen | O=O | O2
reactant | sodium hydroxide | 0.5M, 20 mL | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Carbonodithioic Acid, O-ethyl S-(2-pyridinylmethyl) Ester | C(OCC)(=S)SCC1=NC=CC=C1 | C9H11NOS2
